US08202857B2
(S)-tert-butyl 1-(4-bromophenyl)ethyl(4-oxo-4-phenylbutyl)carbamate (3.14 g, 7.04 mmol), (R)-t-Butylsulfinamide, Ti(OEt)4 (125 μL, 1.5 equiv) were mixed with dry THF (80 mL) and heated at reflux for overnight. LC-MS found most of starting material was consumed. The mixture was diluted with ether (200 mL), washed with water (50 mL), brine (30 mL), dried over Na2SO4. After filtration and concentration, the residue was purified by chromatography on a 120-g silica gel cartridge, eluted with a 10˜35% EtOAc in hexanes gradient, to afford tert-butyl (S)-1-(4-bromophenyl)ethyl((E)-4-((R)-tert-butylsulfinylimino)-4-phenylbutyl)carbamate (1.97 g, 51%) product and recovered starting material (0.72 g). LC-MS Method 1 tR=2.43 min, m/z 549, 551 (M+1)

reactant | (S)-tert-butyl 1-(4-bromophenyl)ethyl(4-oxo-4-phenylbutyl)carbamate | 7.04 mmol, 3.14 g | BrC1=CC=C(C=C1)[C@H](C)N(C(OC(C)(C)C)=O)CCCC(C1=CC=CC=C1)=O | C23H28BrNO3
reactant | (R)-t-Butylsulfinamide | C(C)(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-1-(4-bromophenyl)ethyl((E)-4-((R)-tert-butylsulfinylimino)-4-phenylbutyl)carbamate | 1.97 g, 51% | BrC1=CC=C(C=C1)[C@H](C)N(C(OC(C)(C)C)=O)CCC\C(\C1=CC=CC=C1)=N/[S@](=O)C(C)(C)C | C27H37BrN2O3S
